US09255121B2
Preparation of 1-Methyl-Adenosine-5′-monophosphate
Adenosine-5′-monophosphate sodium salt (10 g, 24.7 mmol) was dissolved in water (50 mL). The resulting solution was applied to a Dowex 50WX8 column (200 mL) in the pyridinium form. Subsequently the column was washed with 600 mL water-methanol (1:1). The eluate was directly collected into a cold, stirred solution of tri-n-butylamine (17.6 mL, 74.1 mmol) in methanol. The solvent was evaporated to dryness, dissolved again in methanol and re-evaporated twice. This procedure was repeated twice more with anhydrous DMF (700 mL) using an oil pump. The residue was dissolved in 700 mL anhydrous DMF. Iodomethane (50 mL, 803 mmol) was then added and the reaction mixture was stirred at room temperature for 20 hours. The solution was evaporated to dryness. The residue was dissolved in water (1000 mL) and the pH of the solution was adjusted from 1.2 to 7.5 with 1M triethylammonium bicarbonate (pH 11.0). Purification by ion exchange chromatography yielded the product (2.1 g, 23%) as a sodium salt, and was used in the next steps without further purification: MS (ES) m/z 362 [M+H]+, 360 [M+Na]+.

reactant | Adenosine-5′-monophosphate sodium salt | 24.7 mmol, 10 g | [Na+].P(=O)([O-])([O-])OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O.[Na+]
reactant | pyridinium | [NH+]1=CC=CC=C1
reactant | tri-n-butylamine | 74.1 mmol, 17.6 mL | C(CCC)N(CCCC)CCCC | C12H27N
reactant | Iodomethane | 803 mmol, 50 mL | IC | CH3I
solvent | water | 50 mL | O | H2O
solvent | methanol | CO | CH4O
product | 1-Methyl-Adenosine-5′-monophosphate | 2.1 g, 23% | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=N)N(C=NC12)C)O)O | C11H16N5O7P
